Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, fevers, chills post TACE
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 Mr. ___ is a ___ with history of pulmonary
hypertension, PMR on steroids, and biopsy proven R hepatic lobe
___ who recently underwent diagnostic laparoscopy in ___ which
was aborted for steatosis. He underwent TACE ___ with ___ and 
was
admitted to medicine post-procedurally. He had a CT scan
yesterday which demonstrated expected changes to the liver and 
he
was ultimately discharged to home. Overnight, he had moderate
pain along his R back and RUQ along with subjective fevers and
chills as well as reported measured temperature of 100.8. He has
not been able to eat but reports taking in liquids. He was
referred to the emergency department for further evaluation. 

In the ED he was not found to be febrile. His HR was low 100s 
and
he was requiring ___ supplemental O2. 

ROS:
(+) per HPI
(-) Denies  night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary
frequency, urgency
 
Past Medical History:
- ___ s/p chemoembolization on ___
- HTN
- HLD
- OSA
- prostate CA s/p prostatectomy ___
- s/p artificial sphincter placement at ___ for incontinence 
- polymyalgia rheumatica 
- glaucoma
- gout 
- h/o SVT 
 
Social History:
___
Family History:
Mom- HTN
Dad- multiple myeloma, prostate cancer, HTN
Sister- HCV, hemochromatosis 
No family hx of liver disease or malignancy.
 
Physical Exam:
Exam on Admission:
Vitals: 98.1 100 168/73 17 92RA
GEN: A&O
HEENT: No scleral icterus
CV: RRR, No M/G/R
PULM: Clear to auscultation
ABD: Soft, nondistended, nontender. Well healed incision. 
Ext: No ___ edema, ___ warm and well perfused. Moderate bruising
left wrist at TACE access site. 
.
Exam at Discharge:
24 HR Data (last updated ___ @ 2316)
    Temp: 98.6 (Tm 100.1), BP: 119/56 (96-150/55-73), HR: 86
(59-115), RR: 18 (___), O2 sat: 90% (88-100), O2 delivery:
Cpap, Wt: 260.0 lb/117.94 kg

Fluid Balance (last updated ___ @ ___
  Last 8 hours  Total cumulative -400ml
    IN: Total 0ml
    OUT:  Total 400ml, Urine Amt 400ml
  Last 24 hours  Total cumulative 80ml
    IN: Total 480ml, PO Amt 480ml
    OUT:  Total 400ml, Urine Amt 400ml

GENERAL: [ x]NAD  [X]A/O x 3  
CARDIAC: [x ]RRR  
LUNGS:   [x ]no respiratory distress  
ABDOMEN: [x ]soft/Obese  [x ]appropriately tender 
EXTREMITIES: [x ]no CCE  

 
Pertinent Results:
Labs on Admission: ___
WBC-9.0 RBC-5.54 Hgb-16.6 Hct-51.0 MCV-92 MCH-30.0 MCHC-32.5 
RDW-15.1 RDWSD-50.9* Plt ___ PTT-26.8 ___
Glucose-125* UreaN-15 Creat-0.9 Na-141 K-4.3 Cl-103 HCO3-24 
AnGap-14
ALT-111* AST-155* LD(LDH)-394* AlkPhos-154* TotBili-0.5
Calcium-10.0 Phos-3.0 Mg-1.8
Albumin-4.2
Lactate-1.8
.
Labs at Discharge: ___
WBC-11.7* RBC-5.19 Hgb-15.6 Hct-48.5 MCV-93 MCH-30.1 MCHC-32.2 
RDW-14.8 RDWSD-51.1* Plt ___ PTT-28.1 ___
Glucose-141* UreaN-17 Creat-1.0 Na-140 K-4.5 Cl-98 HCO3-31 
AnGap-11
ALT-233* AST-83* AlkPhos-301* TotBili-0.9
Calcium-9.6 Phos-2.3* Mg-2.2
.
___ 9:10 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
.
Time Taken Not Noted     Log-In Date/Time: ___ 8:02 pm
      BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

 
Brief Hospital Course:
___ with pulmonary HTN, PMR, HCC s/p TACE ___ who now 
presents with post-procedure syndrome, consisting of fevers and 
abdominal pain.
.
Overnight, he was noted to be in 1st degree HB noted on tele 
w/occasional dropped beat. He required supplemental O2. CXR 
showed mild atelectasis. He was started on CPAP for OSA. He was 
also given IV lasix with improvement in his respiratory status.
.
He remained afebrile during the hospital stay. Pain was managed 
with low dose tylenol and oxycodone and he was provided with a 
script for home.
.
Follow up for CT exam and portal vein embolization is arranged 
in anticipation of surgery at a future date. Patient has been 
advised to lose ___ pounds.
.
He was evaluated by ___ and will follow up with outpatient ___ as 
needed once he is home. Script provided for outpatient ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Methylprednisolone 2 mg PO BID 
6. Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY right eye 
7. Aspirin 81 mg PO DAILY 
8. FoLIC Acid 1 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Senna 8.6 mg PO BID:PRN Constipation - First Line 
12. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Maximum 6 of the 325 mg tablets daily  
2.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
No driving if taking this medication 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours as needed 
Disp #*28 Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Methylprednisolone 2 mg PO BID  
10.  Metoprolol Succinate XL 25 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY right eye  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___
s/p TACE post procedure syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent, with contact guard. 
Please see ___ notes

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever 
of 101 or higher, chills, nausea, vomiting, diarrhea, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, yellowing of the skin or 
eyes, inability to tolerate food, fluids or medications, or any 
other concerning symptoms.

You may shower. 
No lifting more than 10 pounds
No driving if taking narcotic pain medication
.
Dr ___ is recommending weight loss of ___ pounds

 
Followup Instructions:
___